US04036864
A solution of 1-trifluoroacetoxyadamantane (1.0 g, 4.0 mmole, prepared by reacting adamantan-1-ol with trifluoroacetic anhydride in dry pyridine) in fluorotrichloromethane (10 ml), containing m-dinitrobenzene (80 mg, 0.48 mmole), was treated with trifluoromethyl hypofluorite (4.5 mmole) at -25° for 24 hours, air being recrystallization admitted to the reaction vessel during this time. The product was recovered in a similar manner to that described in Example 3 and was chromatographed on silica (100 g). Elution with chloroform:hexane (1:5) afforded unreacted starting material (152 mg), while elution with chloroform:hexane (1:4) gave liquid 3-fluoro-1-trifluoroacetoxyadamantane (489 mg) which appeared homogeneous by g.l.c. This product sublimed at 70° (bath)/1 mm Hg to give a crystalline solid m.p. 28°-32°; νmax (film) 1780 cm-1 ; PMR 1.5-2.6 (m, adamantyl protons); FMR φ* + 76.2 (s, CF3COO--) and + 133.5 (broad s) ppm.

reactant | 1-trifluoroacetoxyadamantane | 4.0 mmole, 1.0 g | FC(C(=O)OC12CC3CC(CC(C1)C3)C2)(F)F | C12H15F3O2
reactant | m-dinitrobenzene | 0.48 mmole, 80 mg | [N+](=O)([O-])C1=CC(=CC=C1)[N+](=O)[O-] | C6H4N2O4
reactant | trifluoromethyl hypofluorite | 4.5 mmole | FOC(F)(F)F | CF4O
solvent | fluorotrichloromethane | 10 ml | FC(Cl)(Cl)Cl | CCl3F
product | 3-fluoro-1-trifluoroacetoxyadamantane | 489 mg | FC12CC3(CC(CC(C1)C3)C2)OC(C(F)(F)F)=O | C12H14F4O2
